US04063019
11.5 g. (0.1 mol.) of 1-amino-2,4-dioxoimidazolidine are thoroughly stirred into 150 ml. of absolute tetrahydrofuran. A solution of 15 g. (0.15 mol.) of phosgene in 25 ml. of absolute tetrahydrofuran is added dropwise at 0°-5° over 20 minutes. The mixture is then stirred for 3 hours at room temperature. An almost clear solution results. This is filtered and the solvent is evaporated in vacuum. The oily residue crystallizes on trituration with petroleum ether to obtain 1-(chlorocarbonylamino)-2,4-dioxoimidazolidine, yield 17.2 g., m.p. 126° (dec.).

reactant | 1-amino-2,4-dioxoimidazolidine | 0.1 mol | NN1C(NC(C1)=O)=O | C3H5N3O2
reactant | phosgene | 0.15 mol | C(=O)(Cl)Cl | CCl2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(chlorocarbonylamino)-2,4-dioxoimidazolidine | ClC(=O)NN1C(NC(C1)=O)=O | C4H4ClN3O3
